US04033972
To a solution of 3-pyridylcarbinol (4.3 g., 0.0392 mole) in 200 ml. of ethylene glycol monomethyl ether (glyme) was added a 57% dispersion of sodium hydride in oil (1.7 g., 0.0392 mole). After the exothermic reaction had subsided and the evolution of hydrogen had ceased, a solution of N-methyl-N-(4-cyanophenyl)carbamoyl chloride in 30 ml. of glyme was added dropwise. A suspension formed and was stirred at room temperature for 18 hrs. The reaction mixture was poured into 700 ml. of water. The reaction product was extracted with methylene dichloride and the extract was dried over magnesium sulfate and concentrated. The residue was an oil which solidified. This was recrystallized from hexane to give 1.5 g. of solid melting at 82°-84.5° C. This solid is a 14.4% yield of 3-pyridylmethyl N-methyl-N-(4-cyanophenyl)carbamate.

reactant | 3-pyridylcarbinol | 0.0392 mole, 4.3 g | N1=CC(=CC=C1)CO | C6H7NO
reactant | sodium hydride | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | N-methyl-N-(4-cyanophenyl)carbamoyl chloride | CN(C(=O)Cl)C1=CC=C(C=C1)C#N | C9H7ClN2O
solvent | water | O | H2O
solvent | glyme | COCCO | C3H8O2
product | 3-pyridylmethyl N-methyl-N-(4-cyanophenyl)carbamate | 14.4% yield | CN(C(OCC=1C=NC=CC1)=O)C1=CC=C(C=C1)C#N | C15H13N3O2
